US07851493B2
To a solution of 474 mg of [2-(4-trifluoromethyl-phenyl)-4-(4-trifluoromethyl-piperidin-1-ylmethyl)-thiazol-5-yl]-methanol in 2.9 mL of dimethylformamide was added 60 mg of sodium hydride. The resulting mixture was stirred for 30 minutes at 0° C. then 208 mg of 4-fluoro-2-methoxybenzonitrile was added. After stirring for 30 minutes at 0° C., the temperature was allowed to warm up to room temperature and the reaction mixture was stirred for 30 minutes. The solvent was removed under reduced pressure and dichloromethane/water was added to the residue. The organic layer was separated and the aqueous layer extracted three times with dichloromethane. The combined organic extracts were dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The crude product was purified by column chromatography on silica gel (dichloromethane 95/methanol 5) to give 279 mg of 2-methoxy-4-[2-(4-trifluoromethyl-phenyl)-4-(4-trifluoromethyl-piperidin-1-ylmethyl)-thiazol-5-ylmethoxy]-benzonitrile.

reactant | [2-(4-trifluoromethyl-phenyl)-4-(4-trifluoromethyl-piperidin-1-ylmethyl)-thiazol-5-yl]-methanol | 474 mg | FC(C1=CC=C(C=C1)C=1SC(=C(N1)CN1CCC(CC1)C(F)(F)F)CO)(F)F | C18H18F6N2OS
reactant | sodium hydride | 60 mg | [H-].[Na+]
reactant | 4-fluoro-2-methoxybenzonitrile | 208 mg | FC1=CC(=C(C#N)C=C1)OC | C8H6FNO
solvent | dimethylformamide | 2.9 mL | CN(C=O)C | C3H7NO
product | 2-methoxy-4-[2-(4-trifluoromethyl-phenyl)-4-(4-trifluoromethyl-piperidin-1-ylmethyl)-thiazol-5-ylmethoxy]-benzonitrile | 279 mg | COC1=C(C#N)C=CC(=C1)OCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)CN1CCC(CC1)C(F)(F)F | C26H23F6N3O2S
